US08242104B2
To a solution of cis-racemic-3-hydroxy-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester (17 mg, 0.36 mmol) in DCM (1 mL) and methanol (0.6 mL) was added 4M HCl in dioxane (1.5 mL) slowly and the reaction mixture stirred at RT for 2.5 h before being concentrated in vacuo. The resultant residue was triturated in diethyl ether to give racemic cis-4-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)piperidin-3-ol which was resolved as the (3R,4S) enantiomer 328 as a white solid (10 mg, 67%). MS RT 2.47, [M+H]+=409. 1H NMR (DMSO-d6) δ: 8.92 (1H, br, d), 8.33 (1H, d, J=8.30 Hz), 7.97 (1H, s), 7.08 (1H, d, J=8.36 Hz), 6.96 (1H, d, J=1.66 Hz), 5.79 (1H, t, J=6.59 Hz), 4.50 (4H, d, J=7.99 Hz), 4.06 (1H, s), 3.27 (2H, m), 3.17 (2H, m), 2.97 (2H, d, J=14.58 Hz), 2.32-2.27 (1H, m), 2.29 (3H, s), 1.74 (1H, d, J=13.43 Hz), 1.46 (6H, d, J=6.59 Hz)

reactant | cis-racemic-3-hydroxy-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.36 mmol, 17 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)O | C26H34N6O4
reactant | HCl | 4M | Cl | ClH
reactant | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.6 mL | CO | CH4O
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | racemic cis-4-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)piperidin-3-ol | C(C)(C)N1N=C(N=C1C=1N=C2N(CCOC3=C2C=CC(=C3)[C@@H]3[C@@H](CNCC3)O)C1)C | C22H28N6O2
